US09260427B2
To a stirring solution of tert-butyl (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoate INT-17 (15.7 g, 28.8 mmol) in DCM (30 mL) was treated with TFA (30.0 g, 263.1 mmol). The reaction mixture was stirred at room temperature for 18 hours to complete. The solvent was evaporated and then co-evaporated with toluene (3×20 mL) to remove trace TFA. The compound was dried under vacuum overnight to afford 13.7 g (97%) of (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoic acid as powder. LCMS-ESI (m/z) calculated for C22H22BrN3O3S: 487.1. found 488.1 [M+H]+, tR=2.55 min. (Method 16). 1H NMR (400 MHz, DMSO) δ 9.05 (d, J=5.0 Hz, 2H), 8.64 (d, J=8.4 Hz, 1H), 8.25 (d, J=8.1 Hz, 2H), 7.62 (d, J=3.8 Hz, 1H), 7.45 (d, J=8.2 Hz, 2H), 6.92 (d, J=3.8 Hz, 2H), 4.64 (td, J=10.5, 4.5 Hz, 1H), 3.26 (dd, J=13.8, 4.4 Hz, 1H), 3.11 (dd, J=13.7, 10.7 Hz, 1H), 1.32 (s, 9H).

reactant | tert-butyl (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoate | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)OC(C)(C)C)NC(=O)C=1SC(=CC1)C(C)(C)C | C26H30BrN3O3S
reactant | TFA | 263.1 mmol, 30.0 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(5-(tert-butyl)thiophene-2-carboxamido)propanoic acid | 13.7 g, 97% | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C=1SC(=CC1)C(C)(C)C | C22H22BrN3O3S
